US07576215B2
METHYL 3-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}BENZOATE
A mixture of 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol (2.65 g, 7.0 mmol), methyl 3-bromobenzoate (3.01 g, 14.0 mmol), CuO (1.01 g, 12.6 mol), and K2CO3 (1.93 g, 14.0 mmol) in dry pyridine (17.5 mL) are heated under nitrogen at 120° C. for 48 h. The cooled reaction is diluted with water (100 mL) and extracted with ether (2×100 mL). The dried (MgSO4) extracts are concentrated to a dark oil which is chromatographed on silica gel using 20:80 ethyl acetate:hexane as eluent isolating the title compound as a colorless tacky solid (Rf˜0.3, 1.53 g). MS (ESI) m/z 514; HRMS: calcd for C31H22F3NO3+H+, 514.16245; found (ESI, [M+H]+), 514.1638.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | 7.0 mmol, 2.65 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | methyl 3-bromobenzoate | 14.0 mmol, 3.01 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | K2CO3 | 14.0 mmol, 1.93 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 17.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | METHYL 3-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}BENZOATE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC=2C=C(C(=O)OC)C=CC2)C=CC1)C(F)(F)F | C31H22F3NO3
